US04146730
The mother liquid with the urea-succinic acid adduct removed was treated with the same strongly acidic ion exchange resin as mentioned above to remove urea. The liquor was then subjected to distillation to remove 100 g. of water and cooled to and allow to stand at 15° C. to crystallize crude adipic acid. By filtration, 12.1 g. of crude adipic acid was obtained. The thus obtained crude adipic acid contained 2.1% by weight of glutaric acid and 1.3% by weight of succinic acid. This crude adipic acid may be recycled to a purification step in the production of adipic acid to obtain pure adipic acid.

reactant | glutaric acid | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
product | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
